US05491123
3-(4-Bromophenyl)-prop-2-enyloxyamine
33.4 g (0.093 mol) of N-[3-(4-bromophenyl)-prop-2-enyloxy]-phthalimide wereintroduced a little at a time into 50 ml of ethanolamine and the temperature increased to 30° C. during this procedure. The mixture was stirred for two hours at 60° C. and then allowed to cool, and 200 ml of dichloromethane were added. The mixture was extracted by shakingwith ice water. After drying was evaporating down the organic phase, the residue was recrystallized from petroleum ether. Yield: 95.3%; mp.: 35°-38° C.

reactant | N-[3-(4-bromophenyl)-prop-2-enyloxy]-phthalimide | 0.093 mol, 33.4 g | BrC1=CC=C(C=C1)C=CCON1C(C=2C(C1=O)=CC=CC2)=O | C17H12BrNO3
reactant | ethanolamine | 50 ml | C(O)CN | C2H7NO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-(4-Bromophenyl)-prop-2-enyloxyamine | Yield: 95.3% | BrC1=CC=C(C=C1)C=CCON | C9H10BrNO
